US07732446B1
As described in example 1E, 76 mg of 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid was coupled with 2,3-dihydro-1H-isoindole to give 75 mg of [4-(1,3-dihydro-isoindole-2-carbonyl)-6,8-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester. MS: APCI (M+H) calc'd for C26H29N3O5+H 464.5; found 464.0.

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid | 76 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)O | C18H22N2O6
reactant | 2,3-dihydro-1H-isoindole | C1NCC2=CC=CC=C12 | C8H9N
product | [4-(1,3-dihydro-isoindole-2-carbonyl)-6,8-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 75 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)N1CC2=CC=CC=C2C1)=O | C26H29N3O5
